US05891916
7-Cyano-7,7-diphenylheptanohydroxamic acid (Compound 1)
To a solution of hydroxylamine (38.5 g, 0.55 mol) in methanol (300 ml) was added a solution of 28% sodium methylate in methanol (165 ml, 0.83 mol). To the mixture was added, while stirring under ice-cooling, a solution of ethyl 7-cyano-7,7-diphenylheptanoate (18.7 g, 0.055 mol) in methanol (50 ml). The mixture was stirred for 1.5 hour. After completion of the reaction, pH of the reaction mixture was made acidic with 1N HCl. The reaction mixture was subjected to extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous saline solution, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was crystallized from ethyl acetate--hexane to give 15.2 g of the title compound.

reactant | hydroxylamine | 0.55 mol, 38.5 g | NO | H3NO
reactant | sodium methylate | C[O-].[Na+]
reactant | ethyl 7-cyano-7,7-diphenylheptanoate | 0.055 mol, 18.7 g | C(#N)C(CCCCCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25NO2
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 0.83 mol, 165 ml | CO | CH4O
product | 7-Cyano-7,7-diphenylheptanohydroxamic acid | 15.2 g | C(#N)C(CCCCCC(=O)NO)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O2
